US09024027B2
Step 1: Preparation of methyl 2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetate (163)
To a solution of 5-nitroisoindoline-1,3-dione (2 g, 10.41 mmol) in DMF (10 ml), K2CO3 (1.439 g, 10.41 mmol) and methyl 2-bromoacetate (1.930 ml, 20.82 mmol) were added, and the mixture was reacted under MW irradiation for 2 hr at 140° C. Then the solid K2CO3 was filtered off, the solvent was evaporated and the resulting crude was triturated with EtOH obtaining the title compound as a pale brown solid (1.8 g, 6.82 mmol, 65.5% yield, UPLC-MS purity 90%, MS/ESI+ 265.1 [MH]+) which was used without any additional purification.

reactant | 5-nitroisoindoline-1,3-dione | 10.41 mmol, 2 g | [N+](=O)([O-])C=1C=C2C(NC(C2=CC1)=O)=O | C8H4N2O4
reactant | K2CO3 | 10.41 mmol, 1.439 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-bromoacetate | 20.82 mmol, 1.930 ml | BrCC(=O)OC | C3H5BrO2
reactant | EtOH | CCO | C2H6O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetate | 6.82 mmol, 1.8 g, 65.5% yield | [N+](=O)([O-])C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC)=O | C11H8N2O6
